US07378417B2
7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(2-methyl-5-sulfamoyl-phenyl)-amide
The title compound was prepared from 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.1) and 3-amino-4-methyl-benzenesulfonamide [CAS-No. 6274-28-8; commercially available] according to general procedure II. Light brown solid. MS (ISP) 524.0 [(M−H−]; mp 293° C.

reactant | 7-difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC=C(C=C2)C(F)(F)F)F | C15H8F5N3O2
reactant | 3-amino-4-methyl-benzenesulfonamide | NC=1C=C(C=CC1C)S(=O)(=O)N | C7H10N2O2S
product | 7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(2-methyl-5-sulfamoyl-phenyl)-amide | CC1=C(C=C(C=C1)S(N)(=O)=O)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC=C(C=C2)C(F)(F)F | C22H16F5N5O3S
